US04279918
2-dimethylamino-2-methoxy-1-methylpyrrolidine
Add (dropwise, at room temperature, with stirring) 50.0 g of 2-dimethylamino-1-methyl-1-pyrrolinium-methylsulfate to 12.65 g of sodium methylate, suspended in 120 ml of absolute diethyl ether and boil the resulting reaction mixture under reflux for 1 hour. After cooling the refluxed material, filter the precipitated salt therefrom. Draw off the ether from the filtrate and distil under a vacuum what remains of the filtrate to obtain 9.0 g of the title compound as a liquid (with a very marked tendency to decomposition) of b.p. 45° to 47° at 11 mm of Hg.

reactant | 2-dimethylamino-1-methyl-1-pyrrolinium methylsulfate | 50.0 g | CN(C1=[N+](CCC1)C)C.COS(=O)(=O)[O-]
reactant | sodium methylate | 12.65 g | C[O-].[Na+]
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
product | 2-dimethylamino-2-methoxy-1-methylpyrrolidine | 9.0 g | CN(C1(N(CCC1)C)OC)C | C8H18N2O
